Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Left hand and face numbness, left hand weakness and clumsiness, 
fever, and headache.
 
Major Surgical or Invasive Procedure:
Right parietal craniotomy for abscess incision and drainage.
 
History of Present Illness:
Mrs. ___ is a ___ y/o F from ___ with history of MS 
presents with headaches and left hand clumsiness. Patient states 
that her headaches first presented on ___ of this week in 
which she did not think much of, but on ___, developed left 
hand clumsiness. She states that she had difficulty with 
grasping objects and using her fingers. She also reported some 
numbness in the hand. Today, she presented to the ED because she 
was found to have a temperature of 101.7 in which she took 
Tylenol and was normothermic after. Once in the ED, patient was 
seen by neurology who recommended an MRI head. MRI head revealed 
a R parietal lesion concerning for MS, metastatic disease, or 
abscess. Neurosurgery was consulted for further evaluation.

She reports a mild headache, numbness on the left side of face 
and difficulty using her left hand. She denies any recent travel 
outside of ___ and the ___. or ingesting any raw or uncooked 
meats. She also denies any changes in vision, dysarthria, 
weakness, nausea, vomitting, diarrhea, cough, or chills.

 
Past Medical History:
Multiple sclerosis
 
Social History:
___
Family History:
Mother with pancreatic cancer, brother-lung cancer, two sisters 
with brain cancer.

 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
O: T:99  BP:160/102  HR: 81    R: 16    O2Sats: 97% RA
Gen: WD/WN, comfortable, NAD.
HEENT: atraumatic, normocephalic
Pupils: 4-3mm bilaterally         EOMs: intact

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength L FI ___, otherwise full power ___ 
throughout.
No pronator drift

Sensation: Intact to light touch

PHYSICAL EXAM ON DISCHARGE:

T:98.1  BP:133/95  HR: 95 RR: 18 O2Sats: 98% RA
Gen: WD/WN, comfortable, NAD.
HEENT: atraumatic, normocephalic, with right craniotomy 
incision.
Pupils: 4-3mm bilaterally, EOMs: intact

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4 to 3 mm 
bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal 
movements,tremors. Strength L FI ___, otherwise full power ___ 
throughout.
No pronator drift

Sensation: Intact to light touch

 
Pertinent Results:
___ MRI HEAD W/WO CONTRAST 
IMPRESSION: 
  
1.  Ring-enhancing lesion identified in the area of the right 
precentral 
sulcus frontal lobe, with associated vasogenic edema, restricted 
diffusion, possibly consistent with an abscess, other entities 
cannot be completely ruled out such as metastases or primary 
brain neoplasm. 
  
2.  Multiple FLAIR and T2 hyperintense lesions in the 
subcortical white matter along the callososeptal region, 
consistent with known multiple sclerosis disease. 

___ MRI HEAD W/ CONTRAST 
IMPRESSION:  Unchanged ring-enhancing lesion identified in the 
area of the 
right precentral sulcus of the frontal lobe, with associated 
vasogenic edema.  The differential diagnosis again includes 
possible abscess, other entities, however, cannot be completely 
excluded. 

___ NON CONTRAST HEAD CT 
IMPRESSION: 
  
1.  Status post right parietal craniotomy with mixed density 
lesion in the 
right precentral sulcus and surrounding edema not significantly 
changed from prior MR of ___ allowing for 
difference in technique.  
  
2.  No acute intracranial hemorrhage or major vascular 
territorial infarct.  
  
3.  Bifrontal subcortical white matter hypodensities compatible 
with 
underlying multiple sclerosis.  

___ 2:37 am CSF;SPINAL FLUID      TUBE #1. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH.

 
Brief Hospital Course:
Mrs. ___ presented to the ___ Emergency Department on 
___ with left-sided numbness of her hand and face and left 
hand clumsiness.  She was evaluated in the ED and initially 
believed to have an MS flare and she was evaluted by Neurology 
service which resulted in the recommendation for an MRI brain.  
The MRI was read to demonstrate a right parietal lesion 
concerning for MS, metastatic disease or abscess. She was 
admitted to Neurosurgery for further evaluation and treatment.  

On ___, Mrs. ___ was taken to the OR for a right 
parietal craniotomy with cordisectomy, drainage and irrigation 
of brain abscess. She tolerated the procedure well. She was 
taken to PACU to recover then to the ICU. ID recommmend 
Vancomycin and Meropenem. Gram stain PRELIM: gram negative rods 
and gram positive cocci in pairs and chains. Post operative head 
CT showed post operative changes. On post operative exam she had 
left arm weakness. 

On ___ the patient continued on vancomycin and Meropenem. 
WBC was elevated to 19.0 from 15.7 on ___. She was 
transferred to the floor. Left arm weakness was slightly 
improved. the patient reported lethargy and left leg weakness. 
on exam the patient was sleepy but awake.  she was oriented to 
person place and time.  right sided strength was ___ and left 
upper extremity was ___ and left lower extremity was full except 
for IP which was 5-. A stat NCHCT was performed which was 
stable.

On ___, consent for picc line placement obtained, picc line 
placed by IV nurse. She will continue with vanco and meropenum 
IV. Final abcess culture result is still pending. Exam remains 
stable. 

On ___ ___ evaluated the patient and found that she continues 
to have an unsteady gait and would not be safe to go home.  They 
planned to visit her again on ___ for re-evaluation and to 
perform stair maneuvers with her. The final results on the 
abcess culture was streptococcus Milleri. New ID recommendations 
were to discontiniu Vanco and Meropenum, she was started on 
Ceftriaxone 2 grams and and Flagyl Tid. 

On ___, patient was re-evaluated by ___ and OT and cleared to be 
discharged home with the assistance of a cane. They also 
recommend services while patient is at home. She remained stable 
on examination.

On ___, Mrs. ___ was seen and evaluated, she 
complained of headache and a non-contrast head CT was ordered. 
This showed the stable post-operative changes.  Home services 
were established and the patient was discharged.

 
Medications on Admission:
Ibuprofen
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
RX *acetaminophen 325 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*112 Tablet Refills:*0
2. CeftriaXONE 2 gm IV Q12H 
RX *ceftriaxone 2 gram 2 gm IV every twelve (12) hours Disp #*84 
Vial Refills:*0
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*45 Capsule Refills:*0
4. LeVETiracetam 1000 mg PO BID 
RX *levetiracetam [Keppra] 1,000 mg 1 tablet(s) by mouth twice a 
day Disp #*56 Tablet Refills:*0
5. MetRONIDAZOLE (FLagyl) 500 mg PO TID 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth three 
times a day Disp #*126 Tablet Refills:*0
6. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone [Oxecta] 5 mg 1 tablet, oral only(s) by mouth 
every six (6) hours Disp #*168 Tablet Refills:*0
7. Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line flush 

RX *heparin lock flush (porcine) [heparin lock flush] 10 unit/mL 
1 ml IV every eight (8) hours Disp #*126 Vial Refills:*0
8. Sodium Chloride 0.9%  Flush 10 mL IV Q8H and PRN, line flush 
Flush before and after each infusion of antibiotics. 
RX *sodium chloride 0.9 % [Normal Saline Flush] 0.9 % 10 ml IV 
q12 Disp #*168 Syringe Refills:*1

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Brain abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Have a friend/family member check your incision daily for 
signs of infection.
Take your pain medicine as prescribed.
Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
**Your wound was closed with sutures. You may wash your hair 
only after sutures and/or staples have been removed. 
You may shower before this time using a shower cap to cover 
your head.
Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, and 
Ibuprofen etc. 
You have been discharged on Keppra (Levetiracetam), you will 
not require blood work monitoring.
Clearance to drive and return to work will be addressed at 
your post-operative office visit.
Make sure to continue to use your incentive spirometer while 
at home, unless you have been instructed not to. 

 
Followup Instructions:
___